US05977178
((1R)-2-(1,1'-Biphenyl-4-yl)-1-(methyl-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)ethyl)methyl-carbamic acid tert-butylester (1.0 g; 1.8 mmol) was dissolved in methylene chloride (4 mL). Trifluoroacetic acid (4 mL) was added and the reaction mixture was stirred for 15 min at room temperature. Methylene chloride (40 mL), an aqueous solution of sodium hydrogen carbonate/sodium carbonate (pH 9; 40 mL) and sodium hydrogen carbonate (solid) were added to the reaction mixture until pH 9. The organic phase was dried (magnesium sulfate) and the solvent was removed in vacuo to afford 0.76 g of (2R)-3-(1,1'-biphenyl-4-yl)-N-methyl-2-methylamino-N-((1R)-1-methylcarbamoyl-2-phenylethyl)propionamide.

reactant | ((1R)-2-(1,1'-Biphenyl-4-yl)-1-(methyl-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)ethyl)methyl-carbamic acid tert-butylester | 1.8 mmol, 1.0 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)=O | C32H39N3O4
reactant | Trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate sodium carbonate | 40 mL, pH 9 | C(O)([O-])=O.[Na+].C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | (2R)-3-(1,1'-biphenyl-4-yl)-N-methyl-2-methylamino-N-((1R)-1-methylcarbamoyl-2-phenylethyl)propionamide | 0.76 g | C1(=CC=C(C=C1)C[C@H](C(=O)N([C@H](CC1=CC=CC=C1)C(NC)=O)C)NC)C1=CC=CC=C1 | C27H31N3O2
